2130-08-09 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --Got HD yesterday in the pm
   --IR fixed HD line that pt had broken
   --A-fib o/n HR 150s-160s, given 5mg metoprolol IV x 2 and ativan 0.5mg
   for aggitation, HR down to 130s-140s.
   --BP dropped to 70s/30s, 250ml blous x 2 given, BP 80s/40s
   --EKG w/ ST depressions V2-V6, CK 33,CKMB 2, Trop
   --Hct drop from 33.0-18.9, 2 units PRBCs ordered, hemolysis labs pend.
   History obtained from Medical records
   Patient unable to provide history: Mild dementia
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Shellfish Derived
   Nausea/Vomiting
   Fish Product Derivatives
   Nausea/Vomiting
   Zolpidem
   possibly worsen
   Ativan (Oral) (Lorazepam)
   visual hallucin
   Last dose of Antibiotics:
   Cefipime - [**2130-8-8**] 12:01 PM
   Metronidazole - [**2130-8-8**] 09:37 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2130-8-8**] 08:05 PM
   Haloperidol (Haldol) - [**2130-8-9**] 01:00 AM
   Lorazepam (Ativan) - [**2130-8-9**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-8-9**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37
C (98.6
   HR: 158 (85 - 158) bpm
   BP: 84/43(71) {83/27(35) - 171/64(89)} mmHg
   RR: 20 (9 - 27) insp/min
   SpO2: 85%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 65 Inch
             Total In:
                                                                    280 mL
                                                                     63 mL
   PO:
             TF:
   IVF:
                                                                    280 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                  1,250 mL
                                                                      0 mL
   Urine:
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -970 mL
                                                                     63 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 85%
   ABG: 7.45/40/205/26/4
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   138 K/uL
   6.1 g/dL
   82 mg/dL
   6.6 mg/dL
   26 mEq/L
   4.1 mEq/L
   29 mg/dL
   98 mEq/L
   141 mEq/L
   18.9 %
   9.2 K/uL
        [image002.jpg]
                             [**2130-8-8**]  10:26 AM
                             [**2130-8-9**]  04:50 AM
   WBC
   9.2
   Hct
   18.9
   Plt
   138
   Cr
   6.6
   TCO2
   29
   Glucose
   82
   Other labs: CK / CKMB / Troponin-T:33/2/, Ca++:10.0 mg/dL, Mg++:2.0
   mg/dL, PO4:7.8 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
   Mr. [**Known lastname 67**] is a 69 y.o. man with multiple myeloma complicated by
   multiple vertebral lytic lesions, ESRD on hemodialysis who presents now
   as [**Hospital Unit Name 1**] transfer for worsening hypoxia in setting of new PNA and need
   for high levels of narcotics for pain control.
   .
   #Respiratory distress / hypoxia:  PO2 on room air was 40 on [**8-8**] and
   patient reportedly desaturated to high 70s on room air and then again
   to high 70s/low 80s on 3L NC. STAT CXR done and now revealing new RUL
   infiltrative process alongside fevers to the 102 range. Lactate was WNL
   and last WBC also WNL. Etiology includes a new PNA vs. aspiration event
   with reactive CXR changes and bronchospasm with possible plugging.
   Patient's PMH notable for immunocompromised state and he is at high
   risk for organisms such as Step PNA given his multiple myeloma.
   .
   --continue on NC for now, will slowly wean as tolerates, does not
   appear to be laboring and in need of intubation at this time
   --will continue broad ABx coverage with Vancomycin, Cefipime & Flagyl
   for better anearobic coverage
   --will taper usual narcotic pain regimen so as not to further
   compromise his respiratory status
   .
   # Atrial Fibrillation: Pt  w/ a-fib w/ RVR to the 150s-160s overnight,
   received metoprolol 5mg IV x 2, HR down to 130s-140s.  BP dropped to
   70s/30s, bloused 250cc x 3, BP up to 80s/40s.   EKG showed ST
   depressions on V2-V6.  CKMB 2, Trop
   --currently being Amiodarone loaded
   --will hold anti-HTN for now
   --continue monitor on telemetry
   --repeat EKG
   .
   # Pancytopenia: 10 point Htc drop from 33.0 on [**8-8**] to 23 today.  No
   clear source of bleeding, guaicac.
   --2 units PRBs ordered
   -- hemolysis labs pending
   --continue daily monitoring
   --continue iron, epo, multivitamins as above
   .
   # Severe back pain: He has weakness of both lower extremities at
   baseline but no overt cord compressions or incontinence on recent
   imaging. He had been given IV & PO  morphine for pain control in ED
   with good effects. Now appears in pain with increased motions of his
   lower back region.
   -
   - follow-up palliative care pain consult recommendations
   --continue lidoderm patch, Tylenol and Toradol PRN for now
   --will avoid additional narcotics until his respiratory status and low
   BPs improve
   - consider Ortho/Ortho-Onc consult for potential palliative
   interventions for his severe lytic lesions and newer findings on [**8-6**]
   plain lumbar/sacral films
   .
   # Multiple myeloma: As above, he is status post 11 cycles
   velcade/dexamethasone, he got recent first dose Cytoxan on [**2130-7-3**] for
   disease progression on velcade, also treated with Rituxan in past. Dr.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 363**] is primary oncologist.
   .
   --continue folate, MVIs, allopurinol, Bactrim ppx.
   -touch base about recent PE and decision to treat/not treat with
   anticoagulation
   --f/up Oncology recommendations from Dr. [**Last Name (STitle) 363**]
   .
   # End-stage Renal Disease: Mr. [**Known lastname 67**] has ESRD secondary to his
   multiple myeloma. Last HD session was [**8-8**]. He will continue his usual
   Tues/Thurs/Sat schedule.
   .
   --HD yesterday
   --will continue nephrocaps, iron, folic acid, sevelamer and Epo at HD
   --f/up renal consult recs
   -- renally dose medications
   -- closely monitor electrolyte shifts , replete as needed
   .
   # Hypertension: Currently having low BPs.
   .
   -continue ongoing volume control with HD Tues/Thurs/Sat.
   -currently holding BP meds
   .
   # H/o PE: Diagnosed on recent admission about 2 weeks ago, a small
   subsegmental PE. He was not discharged with anticoagulation. He had
   been on Coumadin long term at home for atrial fibrillation but this was
   discontinued after last admission.
   .
   --will f/up with primary oncologist regarding decision not to
   anticoagulate, will hold off for now
   ICU Care
   Nutrition: Cardiac & renal diet. Replete lytes prn.
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-8-8**] 06:56 PM
   Prophylaxis:
   DVT: heparin sc 5000 tid
   Stress ulcer: IV protonix
   VAP:  none
   Comments:
   Communication:  Comments: Patient, son [**Telephone/Fax (1) 8547**] [**Known firstname 150**] [**First Name4 (NamePattern1) 5628**]
   [**Last Name (NamePattern1) 36**] status: Full code
   Disposition:

2130-08-10 06:52:00 Physician Resident Progress Note
Chief Complaint: Hypoxia, respiratory distress.
   24 Hour Events:
 ARTERIAL LINE - START [**2130-8-9**] 09:00 AM
   - Hct 25 after 2U in yesterday
   - received several fentanyl IV prns yesterday (ranging from 12.5-50),
   zyprexa 5 prn x3 for agitation/pain/pain induced hypertension
   - cardiac enzymes at Trop 0.29,0.48,0.62(this am)
   - ABG in AM 7.33, pCO2 39, pO2 246, HCO3 21  on nonrebreather for new
   hypoxia,
   -CXR: PNA improved, diffuse infiltrates worsened
   - will go for HD early this AM
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Shellfish Derived
   Nausea/Vomiting
   Fish Product Derivatives
   Nausea/Vomiting
   Zolpidem
   possibly worsen
   Ativan (Oral) (Lorazepam)
   visual hallucin
   Last dose of Antibiotics:
   Cefipime - [**2130-8-9**] 12:00 PM
   Metronidazole - [**2130-8-9**] 09:34 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-8-9**] 08:00 AM
   Haloperidol (Haldol) - [**2130-8-9**] 09:10 AM
   Morphine Sulfate - [**2130-8-9**] 09:40 AM
   Lorazepam (Ativan) - [**2130-8-9**] 10:45 AM
   Fentanyl - [**2130-8-10**] 06:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-8-10**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 104 (82 - 131) bpm
   BP: 166/45(81) {80/23(40) - 169/59(92)} mmHg
   RR: 21 (9 - 25) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  5,044 mL
                                                                    152 mL
   PO:
             TF:
   IVF:
                                                                  4,319 mL
                                                                    152 mL
   Blood products:
                                                                    725 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,044 mL
                                                                    152 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 100%
   ABG: 7.33/39/246/16/-4
   Physical Examination
   Gen: Elderly spanish speaking male, in NAD on [**Year (4 digits) 2720**] mask.
   HEENT: Sclera anicteric
   Neck: No LAD, no thyromegally, JVP at about 8-9cm
   Cardiac: heart rate is regular and rapid, normal S1/S2, no overt
   murmurs, rubs or gallops
   RESP: crackles throughout, exam limited by patient
s inability to move
   (restrained).
   ABD: Soft, non tender, non distended, no heptosplenomegally,
   normoactive bowel sounds
   EXT: No C/C/E, 2+ radial and DP pulses
   SKIN: HD catheter on right chest appears clean, dry, intact.
   Neuro: Alert, unable to answer questions.
   Labs / Radiology
   118 K/uL
   8.2 g/dL
   88 mg/dL
   7.7 mg/dL
   16 mEq/L
   4.9 mEq/L
   43 mg/dL
   104 mEq/L
   141 mEq/L
   25.7 %
   7.0 K/uL
        [image002.jpg]
                             [**2130-8-9**]  12:49 PM
                             [**2130-8-9**]  02:30 PM
                             [**2130-8-9**]  02:45 PM
                             [**2130-8-9**]  08:52 PM
                             [**2130-8-10**]  04:10 AM
                             [**2130-8-10**]  04:22 AM
                             [**2130-8-10**]  05:06 AM
                             [**2130-8-10**]  05:09 AM
                             [**2130-8-10**]  05:47 AM
                             [**2130-8-10**]  06:35 AM
   WBC
   7.0
   Hct
   25.2
   25.7
   Plt
   118
   Cr
   7.7
   TropT
   0.29
   0.48
   0.62
   TCO2
   24
   21
   22
   22
   22
   21
   Glucose
   88
   Other labs: CK / CKMB / Troponin-T:83/11/0.62, Alk Phos / T Bili:/0.4,
   Lactic Acid:1.2 mmol/L, LDH:163 IU/L, Ca++:10.5 mg/dL, Mg++:1.9 mg/dL,
   PO4:9.1 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
   #Respiratory distress / hypoxia:  PO2 on room air was 40 on [**8-8**] and
   patient reportedly desaturated to high 70s on room air and then again
   to high 70s/low 80s on 3L NC. STAT CXR done and now revealing new RUL
   infiltrative process alongside fevers to the 102 range.  Current WBC-
   7.0.  Etiology includes HAPNA vs. aspiration event with reactive CXR
   changes and bronchospasm with possible plugging. Patient's PMH notable
   for immunocompromised state and he is at high risk for organisms such
   as Step PNA given his multiple myeloma.   Pt was desaturating overnight
   and was put on [**Month/Year (2) 2720**], now sat 100%.  CRX showed improvement of his PNA
   and pulm edema.
   .
   --pt being dialyzed today, will f/u CXR for resolution of pulm edema
   --will continue broad ABx coverage with Vancomycin, Cefipime & Flagyl
   for better anearobic coverage
   --currently on [**Last Name (LF) 2720**], [**First Name3 (LF) **] slowly wean as tolerates.
   --will f/u cultures
   #Hypotension: pt became hypotensive from 130s/80s to 70s/30s overnight
   after receiving 10mg IV metoprolol for afib control.  Also noted was a
   10pt Hct drop from 33 to 23.  No obvious source of bleeding, guaiac not
   possible as there is nothing to perform the test with.  Received ~3L NS
   and 2 units PRBCs on [**8-9**].  Hct stable at 25.2.
   --f/u CBC
   -BP stable, will cont to monitor after HD today.
   .
   # Atrial Fibrillation: Pt  w/ a-fib w/ RVR to the 150s-160s on [**8-9**],
   now resolved after amio load.  Currently on amio 0.5mg/min IV( as per
   pharm).
   --will have to re-assess amio dose tomorrow w/ pharm
   --will hold anti-HTN for now
   --continue monitor on telemetry
   .
   # Severe back pain: He has weakness of both lower extremities at
   baseline but no cord compressions or incontinence on recent imaging. Pt
   appears to be in pain.
   --on dilaudid 0.5-5 q4h prn
   .
   # Multiple myeloma: As above, he is status post 11 cycles
   velcade/dexamethasone, he got recent first dose Cytoxan on [**2130-7-3**] for
   disease progression on velcade, also treated with Rituxan in past. Dr.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 363**] is primary oncologist.
   .
   --continue folate, MVIs, allopurinol, Bactrim ppx.
   .
   # End-stage Renal Disease: Mr. [**Known lastname 67**] has ESRD secondary to his
   multiple myeloma. Last HD session was [**8-8**]. He will continue his usual
   Tues/Thurs/Sat schedule.
   .
   --HD today
   --will continue nephrocaps, iron, folic acid, sevelamer and Epo at HD
   --f/up renal consult recs
   -- renally dose medications
   -- closely monitor electrolyte shifts , replete as needed
   ICU Care
   Nutrition: Cardiac & renal diet. Replete lytes prn.
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-8-8**] 06:56 PM
   Prophylaxis:
   DVT: heparin sc 5000 tid held for the moment
   Stress ulcer: IV protonix
   VAP:  none
   Comments:
   Communication:  Comments: Patient, son [**Telephone/Fax (1) 8547**] [**Known firstname 150**] [**First Name4 (NamePattern1) 5628**]
   [**Last Name (NamePattern1) 36**] status: DNI
   Disposition:

2130-08-11 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 4:00 am: Patient found to be agitated. Given Dilaudid 1 mg PRN dose
   and Haldol 5 mg IV. HR: sinus tachycardia 150s-170s. Once decreased
   agitation, HR down to 110s.
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Shellfish Derived
   Nausea/Vomiting
   Fish Product Derivatives
   Nausea/Vomiting
   Zolpidem
   possibly worsen
   Ativan (Oral) (Lorazepam)
   visual hallucin
   Last dose of Antibiotics:
   Vancomycin - [**2130-8-10**] 02:00 PM
   Cefipime - [**2130-8-10**] 02:10 PM
   Metronidazole - [**2130-8-11**] 04:31 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-8-10**] 02:00 PM
   Haloperidol (Haldol) - [**2130-8-11**] 04:00 AM
   Hydromorphone (Dilaudid) - [**2130-8-11**] 05:58 AM
   Metoprolol - [**2130-8-11**] 05:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-8-11**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.3
   HR: 91 (88 - 173) bpm
   BP: 145/52(80) {93/31(49) - 177/57(92)} mmHg
   RR: 16 (9 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.5 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                    853 mL
                                                                    255 mL
   PO:
             TF:
   IVF:
                                                                    853 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,147 mL
                                                                    255 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Gen: Elderly spanish speaking male, in NAD on [**Year (4 digits) 2720**] mask.
   HEENT: Sclera anicteric
   Neck: No LAD, no thyromegally, JVP at about 8-9cm
   Cardiac: heart rate is regular and rapid, normal S1/S2, no overt
   murmurs, rubs or gallops
   RESP: crackles throughout, exam limited by patient
s inability to move
   (restrained).
   ABD: Soft, non tender, non distended, no heptosplenomegally,
   normoactive bowel sounds
   EXT: No C/C/E, 2+ radial and DP pulses
   SKIN: HD catheter on right chest appears clean, dry, intact.
   Neuro: Alert, unable to answer questions.
   Labs / Radiology
   114 K/uL
   7.4 g/dL
   84 mg/dL
   5.0 mg/dL
   25 mEq/L
   3.9 mEq/L
   25 mg/dL
   101 mEq/L
   142 mEq/L
   23.6 %
   4.4 K/uL
        [image002.jpg]
   [**8-10**] CRX:
   As compared to the previous examination, the cardiac silhouette is
   unchanged. Also unchanged is the position and course of the right-sided
   double-lumen central venous access line. Finally, mild overhydration is
   present in unchanged manner.
   The pre-existing right upper lobe opacity is minimally less dense but
   also
   minimally more extensive as on the previous radiograph. The opacity now
   occupies virtually all parts of the right upper lobe.
   There is no evidence of newly occurred focal parenchymal opacity.
   Relatively
   low lung volumes, unchanged absence of pleural effusion.
                             [**2130-8-9**]  02:30 PM
                             [**2130-8-9**]  02:45 PM
                             [**2130-8-9**]  08:52 PM
                             [**2130-8-10**]  04:10 AM
                             [**2130-8-10**]  04:22 AM
                             [**2130-8-10**]  05:06 AM
                             [**2130-8-10**]  05:09 AM
                             [**2130-8-10**]  05:47 AM
                             [**2130-8-10**]  06:35 AM
                             [**2130-8-11**]  04:51 AM
   WBC
   7.0
   4.4
   Hct
   25.2
   25.7
   23.6
   Plt
   118
   114
   Cr
   7.7
   5.0
   TropT
   0.48
   0.62
   TCO2
   24
   21
   22
   22
   22
   21
   Glucose
   88
   84
   Other labs: CK / CKMB / Troponin-T:83/11/0.62, Alk Phos / T Bili:/0.4,
   Lactic Acid:1.2 mmol/L, LDH:163 IU/L, Ca++:11.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:6.7 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
   #Respiratory distress / hypoxia:  PO2 on room air was 40 on [**8-8**] and
   patient reportedly desaturated to high 70s on room air and then again
   to high 70s/low 80s on 3L NC. STAT CXR done and now revealing new RUL
   infiltrative process alongside fevers to the 102 range.  Current WBC-
   7.0.  Etiology includes HAPNA vs. aspiration event with reactive CXR
   changes and bronchospasm with possible plugging. Patient's PMH notable
   for immunocompromised state and he is at high risk for organisms such
   as Step PNA given his multiple myeloma.   Pt was desaturating overnight
   and was put on [**Month/Year (2) 2720**], now sat 100%.  CRX showed improvement of his PNA
   and pulm edema.
   .
   --pt being dialyzed today, will f/u CXR for resolution of pulm edema
   -- Vanco level low: re-dosed according to HD protocol
   --will continue broad ABx coverage with Vancomycin, Cefipime & Flagyl
   for better anearobic coverage
   --currently on [**Last Name (LF) 2720**], [**First Name3 (LF) **] slowly wean as tolerates.
   --will f/u cultures
   #Hypotension: pt became hypotensive from 130s/80s to 70s/30s overnight
   after receiving 10mg IV metoprolol for afib control.  Also noted was a
   10pt Hct drop from 33 to 23.  No obvious source of bleeding, guaiac not
   possible as there is nothing to perform the test with.  Received ~3L NS
   and 2 units PRBCs on [**8-9**].  Hct stable at 25.2.
   --f/u CBC
   -BP stable, will cont to monitor after HD today.
   .
   # Atrial Fibrillation: Pt  w/ a-fib w/ RVR to the 150s-160s on [**8-9**],
   now resolved after amio load.  Currently on amio 0.5mg/min IV( as per
   pharm).
   --will have to re-assess amio dose tomorrow w/ pharm
   --will hold anti-HTN for now
   --continue monitor on telemetry
   .
   # Severe back pain: He has weakness of both lower extremities at
   baseline but no cord compressions or incontinence on recent imaging. Pt
   appears to be in pain.
    -- Pain control: implemented pain recs with HYDROmorphone (Dilaudid)
   0.5-1 mg IV Q2H:PRN breakthrough pain and Fentanyl patch
   .
   # Multiple myeloma: As above, he is status post 11 cycles
   velcade/dexamethasone, he got recent first dose Cytoxan on [**2130-7-3**] for
   disease progression on velcade, also treated with Rituxan in past. Dr.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 363**] is primary oncologist.
   -- Onc wants Ig G ordered
   -- Further discussion of care goals. Onc can help mediate with family
   meeting. Pt's family doesn't understand pt's condition. family will
   come in on [**8-11**] to address care goals.
   --continue folate, MVIs, allopurinol, Bactrim ppx.
   .
   # End-stage Renal Disease: Mr. [**Known lastname 67**] has ESRD secondary to his
   multiple myeloma. Last HD session was [**8-8**]. He will continue his usual
   Tues/Thurs/Sat schedule.
   .
   --HD today
   --will continue nephrocaps, iron, folic acid, sevelamer and Epo at HD
   --f/up renal consult recs
   -- renally dose medications
   -- closely monitor electrolyte shifts , replete as needed
   ICU Care
   Nutrition: Cardiac & renal diet. Replete lytes prn.
   Glycemic Control:
   Dialysis Catheter - [**2130-8-8**] 09:24 AM
   20 Gauge - [**2130-8-8**] 06:56 PM
   18 Gauge - [**2130-8-9**] 08:00 AM
   Arterial Line - [**2130-8-9**] 09:00 AM
   Prophylaxis:
   DVT: heparin sc 5000 tid held for the moment
   Stress ulcer: IV protonix
   VAP:  none
   Comments:
   Communication:  Comments: Patient, son [**Telephone/Fax (1) 8547**] [**Known firstname 150**] [**First Name4 (NamePattern1) 5628**]
   [**Last Name (NamePattern1) 36**] status: DNI
   Disposition: ICU level of care

2130-08-12 06:57:00 Physician Resident Progress Note
Chief Complaint: hypoxia, respiratory distress
   24 Hour Events:
   - family meeting took place yesterday, it was decided to make the
   patient DNR/DNI
   - patient was not aggitated overnight
   - HR went up to the 170s overnight but responded to 5 mg metoprolol IV,
   now stable 90s-100s
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Shellfish Derived
   Nausea/Vomiting
   Fish Product Derivatives
   Nausea/Vomiting
   Zolpidem
   possibly worsen
   Ativan (Oral) (Lorazepam)
   visual hallucin
   Last dose of Antibiotics:
   Vancomycin D4- [**2130-8-10**] 02:00 PM
   Cefipime D4 - [**2130-8-11**] 03:00 PM
   Metronidazole D4 - [**2130-8-12**] 05:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2130-8-11**] 01:07 PM
   Haloperidol (Haldol) - [**2130-8-11**] 02:07 PM
   Metoprolol - [**2130-8-11**] 08:45 PM
   Heparin Sodium (Prophylaxis) - [**2130-8-12**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-8-12**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 101 (76 - 138) bpm
   BP: 134/30(59) {95/21(41) - 186/66(106)} mmHg
   RR: 16 (7 - 21) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 64.5 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                    653 mL
                                                                    169 mL
   PO:
             TF:
   IVF:
                                                                    653 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    653 mL
                                                                    169 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.37/50/71/23/1
   Physical Examination
   Gen: Elderly spanish speaking male, in NAD.
   HEENT: Sclera anicteric
   Neck: No LAD, no thyromegally
   Cardiac: heart rate is regular and rapid, normal S1/S2, no overt
   murmurs, rubs or gallops
   RESP: crackles throughout, exam limited by patient
s inability to move
   (restrained).
   ABD: Soft, non tender, non distended, no heptosplenomegally,
   normoactive bowel sounds
   EXT: No C/C/E, 2+ radial and DP pulses
   SKIN: HD catheter on right chest appears clean, dry, intact.
   Neuro: Alert, unable to answer questions.
   Labs / Radiology
   132 K/uL
   8.5 g/dL
   74 mg/dL
   7.0 mg/dL
   23 mEq/L
   4.5 mEq/L
   43 mg/dL
   100 mEq/L
   142 mEq/L
   26.7 %
   5.4 K/uL
        [image002.jpg]
                             [**2130-8-9**]  08:52 PM
                             [**2130-8-10**]  04:10 AM
                             [**2130-8-10**]  04:22 AM
                             [**2130-8-10**]  05:06 AM
                             [**2130-8-10**]  05:09 AM
                             [**2130-8-10**]  05:47 AM
                             [**2130-8-10**]  06:35 AM
                             [**2130-8-11**]  04:51 AM
                             [**2130-8-11**]  11:49 AM
                             [**2130-8-12**]  05:22 AM
   WBC
   7.0
   4.4
   5.4
   Hct
   25.7
   23.6
   26.7
   Plt
   118
   114
   132
   Cr
   7.7
   5.0
   7.0
   TropT
   0.48
   0.62
   TCO2
   21
   22
   22
   22
   21
   30
   Glucose
   88
   84
   74
   Other labs: CK / CKMB / Troponin-T:83/11/0.62, Alk Phos / T Bili:/0.4,
   Lactic Acid:1.4 mmol/L, LDH:163 IU/L, Ca++:11.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:7.2 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
   Mr. [**Known lastname 67**] is a 69 y.o. man with multiple myeloma complicated by
   multiple vertebral lytic lesions, ESRD on hemodialysis who presents now
   as [**Hospital Unit Name 1**] transfer for worsening hypoxia in setting of new PNA and need
   for high levels of narcotics for pain control.
   # Severe back pain/agitation: He has weakness of both lower extremities
   at baseline but no cord compressions or incontinence on recent imaging.
   Pt
s pain appears to be well controled as patient was not aggitated
   overnight.
   n        Currently on HYDROmorphone (Dilaudid) 2 mg IV Q3H:PRN
   breakthrough pain and Fentanyl patch
   n        Cont zyprexa 5mg [**Hospital1 **]
   #Respiratory distress / hypoxia:  PO2 on room air was 40 on [**8-8**] and
   patient reportedly desaturated to high 70s on room air and then again
   to high 70s/low 80s on 3L NC. STAT CXR done and now revealing new RUL
   infiltrative process alongside fevers to the 102 range.  Current WBC-
   7.0.  Etiology includes HAPNA vs. aspiration event with reactive CXR
   changes and bronchospasm with possible plugging. Patient's PMH notable
   for immunocompromised state and he is at high risk for organisms such
   as Step PNA given his multiple myeloma.  Pt currently on 5L NC, sats
   96-99%.  CRX shows signs of persistent pulmonary edema, and less dense
   consolidation.
   -- cont Vanco dosed according to HD protocol
   --will continue broad ABx coverage with Vancomycin, Cefipime & Flagyl
   for anearobic coverage
   --will f/u cultures
   #Hypotension: Pt
s BP has been stable.  Hct stable at 26.7 today.
   --f/u CBC
   --will cont to monitor BP.
   .
   # Atrial Fibrillation: Pt  w/ a-fib w/ RVR to the 150s-160s on [**8-9**],
   now resolved after amio load. Amio was dc
d yesterday, currently NSR.
   BP stable.
   --will monitor for afib
   --will hold anti-HTN for now
   --continue monitor on telemetry
   .
   # Multiple myeloma: As above, he is status post 11 cycles
   velcade/dexamethasone, he got recent first dose Cytoxan on [**2130-7-3**] for
   disease progression on velcade, also treated with Rituxan in past. Dr.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 363**] is primary oncologist.
   -- will f/u Ig G
   --PPX held as pt cannot protect his airway.
   .
   # End-stage Renal Disease: Mr. [**Known lastname 67**] has ESRD secondary to his
   multiple myeloma. Last HD session was [**8-8**]. He will continue his usual
   Tues/Thurs/Sat schedule.
   --HD today
   --Epo at HD, PO meds being held as patient cannot protect airway
   --f/up renal consult recs
   -- renally dose medications
   -- closely monitor electrolyte shifts , replete as needed
   ICU Care
   Nutrition: NPO for now.  Will discuss further nutrition plans with
   family
   Glycemic Control:
   Dialysis Catheter - [**2130-8-8**] 09:24 AM
   20 Gauge - [**2130-8-8**] 06:56 PM
   18 Gauge - [**2130-8-9**] 08:00 AM
   Arterial Line - [**2130-8-9**] 09:00 AM
   Prophylaxis:
   DVT: heparin sc 5000 tid
   Stress ulcer: IV protonix
   VAP:  none
   Comments: Restrained at the wrists.  He is agitated at times and pulls
   on his lines.  Please maintain on restraints for the time being.
   Communication:  Comments: Patient, son [**Telephone/Fax (1) 8547**] [**Known firstname 150**] [**First Name4 (NamePattern1) 5628**]
   [**Last Name (NamePattern1) 36**] status: DNR/DNI
   Disposition: ICU level of care

2130-08-12 10:55:00 Physician Attending Progress Note
Chief Complaint: Pneumonia
   Hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Family meeting--and DNR/DNI status declared
   Patient with ST last evening responsive to Lopressor
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Shellfish Derived
   Nausea/Vomiting
   Fish Product Derivatives
   Nausea/Vomiting
   Zolpidem
   possibly worsen
   Ativan (Oral) (Lorazepam)
   visual hallucin
   Last dose of Antibiotics:
   Vancomycin - [**2130-8-10**] 02:00 PM
   Cefipime - [**2130-8-11**] 03:00 PM
   Metronidazole - [**2130-8-12**] 05:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2130-8-11**] 01:07 PM
   Haloperidol (Haldol) - [**2130-8-11**] 02:07 PM
   Metoprolol - [**2130-8-11**] 08:45 PM
   Pantoprazole (Protonix) - [**2130-8-12**] 07:53 AM
   Heparin Sodium (Prophylaxis) - [**2130-8-12**] 07:53 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2130-8-12**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 98 (79 - 138) bpm
   BP: 110/43(58) {101/39(53) - 160/61(99)} mmHg
   RR: 15 (9 - 21) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 64.5 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                    653 mL
                                                                    216 mL
   PO:
             TF:
   IVF:
                                                                    653 mL
                                                                    216 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    653 mL
                                                                    216 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.37/50/71/23/1
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   132 K/uL
   74 mg/dL
   7.0 mg/dL
   23 mEq/L
   4.5 mEq/L
   43 mg/dL
   100 mEq/L
   142 mEq/L
   26.7 %
   5.4 K/uL
        [image002.jpg]
                             [**2130-8-9**]  08:52 PM
                             [**2130-8-10**]  04:10 AM
                             [**2130-8-10**]  04:22 AM
                             [**2130-8-10**]  05:06 AM
                             [**2130-8-10**]  05:09 AM
                             [**2130-8-10**]  05:47 AM
                             [**2130-8-10**]  06:35 AM
                             [**2130-8-11**]  04:51 AM
                             [**2130-8-11**]  11:49 AM
                             [**2130-8-12**]  05:22 AM
   WBC
   7.0
   4.4
   5.4
   Hct
   25.7
   23.6
   26.7
   Plt
   118
   114
   132
   Cr
   7.7
   5.0
   7.0
   TropT
   0.48
   0.62
   TCO2
   21
   22
   22
   22
   21
   30
   Glucose
   88
   84
   74
   Other labs: CK / CKMB / Troponin-T:83/11/0.62, Alk Phos / T Bili:/0.4,
   Lactic Acid:1.4 mmol/L, LDH:163 IU/L, Ca++:11.1 mg/dL, Mg++:2.0 mg/dL,
   PO4:7.2 mg/dL
   Assessment and Plan
   69 yo male with history of Multiple Myeloma admit to ICU wtih pneumonia
   and hypoxemia.  This is in the setting of continued requirement for
   significant levels of narcotics with chronic pain and some significant
   issues with respiratory supression.
   1) TACHYCARDIA, OTHER-This was transient and responsive to beta blocker
   intervention.
   -Continue with telemetry
   2) PNEUMONIA, ASPIRATION
   -Flagyl/Vanco/Cefepime
   3) PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN) complicated by Altered
   Mental Status
   -Lidocaine/Fentanyl patches
   -Improved with Zyprexa in mental status
   4) RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)-
   -Continued on dialysis
   -Will move to 2 liters negative today
   5)Multiple Myeloma-No further definative Rx available and are moving to
   supportive care approach at this time.
   ICU Care
   Nutrition: Patient unable to safely take po intake.  We have seen
   significant risk in regards to [**Last Name (un) 8831**] for nutrtion and supportive care
   through PICC with infection risk.  Would favor enteral feeding via
   tube.  Will need clarification of overall goals of care for patient to
   guide specific medication intervention choices.
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2130-8-8**] 09:24 AM
   20 Gauge - [**2130-8-8**] 06:56 PM
   18 Gauge - [**2130-8-9**] 08:00 AM
   Arterial Line - [**2130-8-9**] 09:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes

2130-08-13 08:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - family mtg, decided for nutrition with D5, and to call family if time
   comes for pressors to re-evaluate
   - narrow complex regular SVT to 200s in evening, responded immediately
   to 5 IV lopressor, stable around 100, then needed multiple 5mg BB
   pushes, then later started in dilt drip for afib control
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Shellfish Derived
   Nausea/Vomiting
   Fish Product Derivatives
   Nausea/Vomiting
   Zolpidem
   possibly worsen
   Ativan (Oral) (Lorazepam)
   visual hallucin
   Last dose of Antibiotics:
   Vancomycin - [**2130-8-10**] 02:00 PM
   Cefipime - [**2130-8-12**] 02:00 PM
   Metronidazole - [**2130-8-13**] 04:00 AM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Metoprolol - [**2130-8-13**] 12:40 AM
   Diltiazem - [**2130-8-13**] 04:30 AM
   Hydromorphone (Dilaudid) - [**2130-8-13**] 07:05 AM
   Pantoprazole (Protonix) - [**2130-8-13**] 08:06 AM
   Heparin Sodium (Prophylaxis) - [**2130-8-13**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-8-13**] 08:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 83 (83 - 126) bpm
   BP: 106/32(52) {83/22(43) - 157/47(76)} mmHg
   RR: 11 (10 - 20) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 64.5 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,000 mL
                                                                    254 mL
   PO:
             TF:
   IVF:
                                                                  1,000 mL
                                                                    254 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,000 mL
                                                                    254 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, 4L
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Gen: Elderly spanish speaking male, in NAD.
   HEENT: Sclera anicteric
   Neck: No LAD, no thyromegally
   Cardiac: heart rate is regular and rapid, normal S1/S2, no overt
   murmurs, rubs or gallops
   RESP: crackles throughout, exam limited by patient
s inability to move
   (restrained).
   ABD: Soft, non tender, non distended, no heptosplenomegally,
   normoactive bowel sounds
   EXT: No C/C/E, 2+ radial and DP pulses
   SKIN: HD catheter on right chest appears clean, dry, intact.
   Neuro: Alert, unable to answer questions.
   Labs / Radiology
   110 K/uL
   8.2 g/dL
   109 mg/dL
   4.8 mg/dL
   26 mEq/L
   3.7 mEq/L
   30 mg/dL
   100 mEq/L
   142 mEq/L
   26.6 %
   3.4 K/uL
        [image002.jpg]
                             [**2130-8-10**]  04:10 AM
                             [**2130-8-10**]  04:22 AM
                             [**2130-8-10**]  05:06 AM
                             [**2130-8-10**]  05:09 AM
                             [**2130-8-10**]  05:47 AM
                             [**2130-8-10**]  06:35 AM
                             [**2130-8-11**]  04:51 AM
                             [**2130-8-11**]  11:49 AM
                             [**2130-8-12**]  05:22 AM
                             [**2130-8-13**]  04:02 AM
   WBC
   7.0
   4.4
   5.4
   3.4
   Hct
   25.7
   23.6
   26.7
   26.6
   Plt
   118
   114
   132
   110
   Cr
   7.7
   5.0
   7.0
   4.8
   TropT
   0.62
   TCO2
   21
   22
   22
   22
   21
   30
   Glucose
   88
   84
   74
   109
   Other labs: CK / CKMB / Troponin-T:83/11/0.62, Alk Phos / T Bili:/0.4,
   Lactic Acid:1.4 mmol/L, LDH:163 IU/L, Ca++:12.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:6.5 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
   Mr. [**Known lastname 67**] is a 69 y.o. man with multiple myeloma complicated by
   multiple vertebral lytic lesions, ESRD on hemodialysis who presents now
   as [**Hospital Unit Name 1**] transfer for worsening hypoxia in setting of new PNA and need
   for high levels of narcotics for pain control.
   .
   # Atrial Fibrillation: Pt  w/ a-fib w/ RVR to the 150s-160s on [**8-9**],
   now resolved after amio load. Was on amio, then transitioned to IV
   lopressor. Received multiple 5 IV boluses overnight, dilaudid for
   presumed pain, ultimately started dilt drip, currently on 10/hr.
   Tachycardia may also be due to pain (see below).
   --titrate off dilt drip to IV standing dilt
   --continue monitor on telemetry
   .
   # Severe back pain/agitation: He has weakness of both lower extremities
   at baseline but no cord compressions or incontinence on recent imaging.
   Pt
s pain appears to be well controled as patient was not aggitated
   overnight. Received 4 dilaudid overnight.
   - Increase fentanyl patch to 50mcg (from 25)
   - Currently on HYDROmorphone (Dilaudid) 2 mg IV Q3H:PRN breakthrough
   pain
   - Cont zyprexa 5mg [**Hospital1 **]
   .
   #Respiratory distress / hypoxia:  PO2 on room air was 40 on [**8-8**] and
   patient reportedly desaturated to high 70s on room air and then again
   to high 70s/low 80s on 3L NC. STAT CXR done and now revealing new RUL
   infiltrative process alongside fevers to the 102 range.  Current WBC-
   7.0.  Etiology includes HAPNA vs. aspiration event with reactive CXR
   changes and bronchospasm with possible plugging. Patient's PMH notable
   for immunocompromised state and he is at high risk for organisms such
   as Step PNA given his multiple myeloma.  Pt currently on 4-5L NC, sats
   96-99%.
   -- cont Vanco dosed according to HD protocol
   --will continue broad ABx coverage (all started [**8-8**]) with Vancomycin ,
   Cefipime & Flagyl for anearobic coverage, will stop after 8 days total
   --will f/u cultures
   .
   # Multiple myeloma: As above, he is status post 11 cycles
   velcade/dexamethasone, he got recent first dose Cytoxan on [**2130-7-3**] for
   disease progression on velcade, also treated with Rituxan in past. Dr.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 363**] is primary oncologist.
   -- will f/u Ig G
   --PPX held as pt cannot protect his airway.
   -- f/u BMT recs
   .
   # End-stage Renal Disease: Mr. [**Known lastname 67**] has ESRD secondary to his
   multiple myeloma. Last HD session was [**8-8**]. He will continue his usual
   Tues/Thurs/Sat schedule.
   -- f/u BMT recs regarding Ca of 12 today (whether to give
   bisphosphonate)
   --HD on tues
   --Epo at HD, PO meds being held as patient cannot protect airway
   --f/up renal consult recs
   -- renally dose medications
   -- closely monitor electrolyte shifts , replete as needed
   .
   #Hypotension: Pt
s BP has been stable.  Hct stable at 26.7 today.
   --f/u CBC
   --will cont to monitor BP.
   .
   FEN: gentle D5 1/2NS boluses given pt is anuric / replete lytes
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2130-8-8**] 09:24 AM
   20 Gauge - [**2130-8-8**] 06:56 PM
   18 Gauge - [**2130-8-9**] 08:00 AM
   Arterial Line - [**2130-8-9**] 09:00 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU level of care

2130-08-13 10:49:00 Physician Attending Progress Note
Chief Complaint: Renal Failure
   Pain
   Multiple Myeloma
   Pneumonia
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with recurrent tachycardia
   Family meeting held--no NGT, no pressors suggested.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Shellfish Derived
   Nausea/Vomiting
   Fish Product Derivatives
   Nausea/Vomiting
   Zolpidem
   possibly worsen
   Ativan (Oral) (Lorazepam)
   visual hallucin
   Last dose of Antibiotics:
   Vancomycin - [**2130-8-10**] 02:00 PM
   Cefipime - [**2130-8-12**] 02:00 PM
   Metronidazole - [**2130-8-13**] 04:00 AM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Metoprolol - [**2130-8-13**] 12:40 AM
   Diltiazem - [**2130-8-13**] 04:30 AM
   Hydromorphone (Dilaudid) - [**2130-8-13**] 07:05 AM
   Pantoprazole (Protonix) - [**2130-8-13**] 08:06 AM
   Heparin Sodium (Prophylaxis) - [**2130-8-13**] 08:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2130-8-13**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 118 (83 - 126) bpm
   BP: 119/35(58) {83/27(43) - 157/47(76)} mmHg
   RR: 20 (10 - 20) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 64.5 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,000 mL
                                                                    301 mL
   PO:
             TF:
   IVF:
                                                                  1,000 mL
                                                                    301 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,000 mL
                                                                    301 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   110 K/uL
   109 mg/dL
   4.8 mg/dL
   26 mEq/L
   3.7 mEq/L
   30 mg/dL
   100 mEq/L
   142 mEq/L
   26.6 %
   3.4 K/uL
        [image002.jpg]
                             [**2130-8-10**]  04:10 AM
                             [**2130-8-10**]  04:22 AM
                             [**2130-8-10**]  05:06 AM
                             [**2130-8-10**]  05:09 AM
                             [**2130-8-10**]  05:47 AM
                             [**2130-8-10**]  06:35 AM
                             [**2130-8-11**]  04:51 AM
                             [**2130-8-11**]  11:49 AM
                             [**2130-8-12**]  05:22 AM
                             [**2130-8-13**]  04:02 AM
   WBC
   7.0
   4.4
   5.4
   3.4
   Hct
   25.7
   23.6
   26.7
   26.6
   Plt
   118
   114
   132
   110
   Cr
   7.7
   5.0
   7.0
   4.8
   TropT
   0.62
   TCO2
   21
   22
   22
   22
   21
   30
   Glucose
   88
   84
   74
   109
   Other labs: CK / CKMB / Troponin-T:83/11/0.62, Alk Phos / T Bili:/0.4,
   Lactic Acid:1.4 mmol/L, LDH:163 IU/L, Ca++:12.1 mg/dL, Mg++:2.1 mg/dL,
   PO4:6.5 mg/dL
   Assessment and Plan
   69 yo male with multiple myeloma and with persistent decline in the
   setting of persistent pain, renal failure (with anuria) and inability
   to independently maintain nutrition and fluid requirments.  This has
   been complicated by intermittent bouts of agitation and tachycardia.
   1) Atrial Fibrillation-
   -Continue with nodal blockade as needed
   -Will continue with dilt gtt at 10mg/hr and look to wean as possible
   -Long term with better pain control rate control may be easier
   tachycardia is potentially primarily driven by ongoing pain.
   2)Renal Failure--Acute and Chronic
   -Continue with dialysis
   3)Altered Mental Status-Multifactorial
   -Pain control with increased Fentanyl patch
   -Hypoxemia
O2 weaning and tolerated
   -Zyprexa for delirium
   4)Pneumonia-
   -Vanco/Cefepime/Flagyl x 8 days
   5)Pain Control-
   -Fentanyl/Lidocaine patch in place
   -Will increase Fentanyl patch to 50ug today
   -Dilaudid PRN
   Additional issues to be addressed as defined in the housestaff note of
   this date
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition: NPO
unsafe for PO intake.  Will provide D5 in IVF and
   continue to monitor
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2130-8-8**] 09:24 AM
   20 Gauge - [**2130-8-8**] 06:56 PM
   18 Gauge - [**2130-8-9**] 08:00 AM
   Arterial Line - [**2130-8-9**] 09:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes

2130-08-14 06:43:00 Physician Resident Progress Note
Chief Complaint: hypoxia, respiratory distress
   24 Hour Events:
   - off the dilt drip, on Metoprolol IV 20mg q6h
   - no episodes of afib overnight
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Shellfish Derived
   Nausea/Vomiting
   Fish Product Derivatives
   Nausea/Vomiting
   Zolpidem
   possibly worsen
   Ativan (Oral) (Lorazepam)
   visual hallucin
   Last dose of Antibiotics:
   Cefipime - [**2130-8-13**] 02:30 PM
   Metronidazole - [**2130-8-14**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-8-13**] 08:06 AM
   Heparin Sodium (Prophylaxis) - [**2130-8-14**] 12:00 AM
   Hydromorphone (Dilaudid) - [**2130-8-14**] 04:00 AM
   Metoprolol - [**2130-8-14**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-8-14**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.3
C (97.4
   HR: 77 (68 - 120) bpm
   BP: 135/45(70) {100/27(50) - 153/45(70)} mmHg
   RR: 16 (11 - 20) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 64.5 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,325 mL
                                                                    167 mL
   PO:
             TF:
   IVF:
                                                                  1,325 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,325 mL
                                                                    167 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Gen: Elderly spanish speaking male, in NAD.
   HEENT: Sclera anicteric
   Neck: No LAD, no thyromegally
   Cardiac: heart rate is regular, normal S1/S2, no overt murmurs, rubs or
   gallops
   RESP: crackles throughout, exam limited by patient
s inability to move
   (restrained).
   ABD: Soft, non tender, non distended, no heptosplenomegally,
   normoactive bowel sounds
   EXT: No C/C/E, 2+ radial and DP pulses
   SKIN: HD catheter on right chest appears clean, dry, intact.
   Neuro: Alert, unable to answer questions.
   Labs / Radiology
   120 K/uL
   7.6 g/dL
   91 mg/dL
   6.5 mg/dL
   26 mEq/L
   4.7 mEq/L
   46 mg/dL
   100 mEq/L
   142 mEq/L
   24.7 %
   3.1 K/uL
        [image002.jpg]
                             [**2130-8-10**]  04:22 AM
                             [**2130-8-10**]  05:06 AM
                             [**2130-8-10**]  05:09 AM
                             [**2130-8-10**]  05:47 AM
                             [**2130-8-10**]  06:35 AM
                             [**2130-8-11**]  04:51 AM
                             [**2130-8-11**]  11:49 AM
                             [**2130-8-12**]  05:22 AM
                             [**2130-8-13**]  04:02 AM
                             [**2130-8-14**]  03:56 AM
   WBC
   4.4
   5.4
   3.4
   3.1
   Hct
   23.6
   26.7
   26.6
   24.7
   Plt
   114
   132
   110
   120
   Cr
   5.0
   7.0
   4.8
   6.5
   TCO2
   21
   22
   22
   22
   21
   30
   Glucose
   84
   74
   109
   91
   Other labs: CK / CKMB / Troponin-T:83/11/0.62, Alk Phos / T Bili:/0.4,
   Lactic Acid:1.4 mmol/L, LDH:163 IU/L, Ca++:12.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:6.4 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
   Mr. [**Known lastname 67**] is a 69 y.o. man with multiple myeloma complicated by
   multiple vertebral lytic lesions, ESRD on hemodialysis who presents now
   as [**Hospital Unit Name 1**] transfer for worsening hypoxia in setting of new PNA and need
   for high levels of narcotics for pain control.
   .
   # Atrial Fibrillation: Pt  w/ a-fib w/ RVR to the 150s-160s on [**8-9**],
   now resolved after amio load. Was on amio, then transitioned to IV
   lopressor.  Dilt drip was stopped yesterday, transitioned to Metoprolol
   20 mg IV q6h.  HR stable overnight.
   --continue Metropolol IV
   --continue monitor on telemetry
   --will dc a-line today
   .
   # Severe back pain/agitation: He has weakness of both lower extremities
   at baseline but no cord compressions or incontinence on recent
   imaging.  Fentanyl patch was increased to 50mcg. Pt
s pain appears to
   be well controled as patient was not aggitated overnight.
   -- Currently on HYDROmorphone (Dilaudid) 2 mg IV Q3H:PRN breakthrough
   pain
   -- cont fentanyl patch
   -- Cont zyprexa 5mg [**Hospital1 **]
   .
   #Respiratory distress / hypoxia:  PO2 on room air was 40 on [**8-8**] and
   patient reportedly desaturated to high 70s on room air and then again
   to high 70s/low 80s on 3L NC. STAT CXR done and now revealing new RUL
   infiltrative process alongside fevers to the 102 range.  Current WBC-
   7.0.  Etiology includes HAPNA vs. aspiration event with reactive CXR
   changes and bronchospasm with possible plugging. Patient's PMH notable
   for immunocompromised state and he is at high risk for organisms such
   as Step PNA given his multiple myeloma.  Pt currently on 4-5L NC, sats
   96-99% and has been afebrile since the day he was transferred to the
   [**Hospital Unit Name 1**].
   -- cont Vanco dosed according to HD protocol
   --will continue broad ABx coverage (all started [**8-8**]) with Vancomycin ,
   Cefipime & Flagyl for anearobic coverage, will stop after 8 days total
   --will f/u cultures
   .
   # Multiple myeloma: As above, he is status post 11 cycles
   velcade/dexamethasone, he got recent first dose Cytoxan on [**2130-7-3**] for
   disease progression on velcade, also treated with Rituxan in past. Dr.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 363**] is primary oncologist.
   -- will f/u Ig G
   --PPX held as pt cannot protect his airway.
   -- f/u BMT recs
   .
   # End-stage Renal Disease: Mr. [**Known lastname 67**] has ESRD secondary to his
   multiple myeloma. Last HD session was [**8-8**]. He will continue his usual
   Tues/Thurs/Sat schedule.
   --will start calcitonin today
   -- f/u BMT recs regarding Ca of 12 today (whether to give
   bisphosphonate)
   --HD today
   --Epo at HD, PO meds being held as patient cannot protect airway
   --f/up renal consult recs
   -- renally dose medications
   -- closely monitor electrolyte shifts , replete as needed
   .
   #Hypotension: Pt
s BP has been stable.  Hct stable at 26.7 today.
   --f/u CBC
   --will cont to monitor BP.
   .
   FEN: gentle D5 1/2NS boluses given pt is anuric / replete lytes
   ICU Care
   Nutrition: D5
 saline,
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2130-8-8**] 09:24 AM
   20 Gauge - [**2130-8-8**] 06:56 PM
   18 Gauge - [**2130-8-9**] 08:00 AM
   Arterial Line - [**2130-8-9**] 09:00 AM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: ICU level of care

2130-08-15 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - no episodes of afib overnight
   - no aggitation overnight
 ARTERIAL LINE - STOP [**2130-8-15**] 04:00 AM
   Allergies:
   Flomax (Oral) (Tamsulosin Hcl)
   orhtostasis;
   Shellfish Derived
   Nausea/Vomiting
   Fish Product Derivatives
   Nausea/Vomiting
   Zolpidem
   possibly worsen
   Ativan (Oral) (Lorazepam)
   visual hallucin
   Last dose of Antibiotics:
   Cefipime - [**2130-8-14**] 02:28 PM
   Vancomycin - [**2130-8-14**] 07:50 PM
   Metronidazole - [**2130-8-15**] 04:16 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2130-8-14**] 08:49 AM
   Haloperidol (Haldol) - [**2130-8-14**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2130-8-15**] 12:44 AM
   Hydromorphone (Dilaudid) - [**2130-8-15**] 04:15 AM
   Metoprolol - [**2130-8-15**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-8-15**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 82 (68 - 92) bpm
   BP: 127/34(57) {119/30(54) - 135/47(69)} mmHg
   RR: 22 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.5 kg (admission): 63.5 kg
   Height: 65 Inch
             Total In:
                                                                  1,468 mL
                                                                    513 mL
   PO:
             TF:
   IVF:
                                                                  1,468 mL
                                                                    513 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    468 mL
                                                                    513 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   104 K/uL
   7.7 g/dL
   103 mg/dL
   4.2 mg/dL
   27 mEq/L
   4.2 mEq/L
   27 mg/dL
   99 mEq/L
   141 mEq/L
   25.0 %
   2.4 K/uL
        [image002.jpg]
                             [**2130-8-10**]  05:06 AM
                             [**2130-8-10**]  05:09 AM
                             [**2130-8-10**]  05:47 AM
                             [**2130-8-10**]  06:35 AM
                             [**2130-8-11**]  04:51 AM
                             [**2130-8-11**]  11:49 AM
                             [**2130-8-12**]  05:22 AM
                             [**2130-8-13**]  04:02 AM
                             [**2130-8-14**]  03:56 AM
                             [**2130-8-15**]  04:46 AM
   WBC
   4.4
   5.4
   3.4
   3.1
   2.4
   Hct
   23.6
   26.7
   26.6
   24.7
   25.0
   Plt
   114
   132
   110
   120
   104
   Cr
   5.0
   7.0
   4.8
   6.5
   4.2
   TCO2
   22
   22
   22
   21
   30
   Glucose
   84
   74
   109
   91
   103
   Other labs: CK / CKMB / Troponin-T:83/11/0.62, Alk Phos / T Bili:/0.4,
   Lactic Acid:1.4 mmol/L, LDH:163 IU/L, Ca++:11.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:5.6 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 PNEUMONIA, ASPIRATION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPOTENSION (NOT SHOCK)
   Mr. [**Known lastname 67**] is a 69 y.o. man with multiple myeloma complicated by
   multiple vertebral lytic lesions, ESRD on hemodialysis who presents now
   as [**Hospital Unit Name 1**] transfer for worsening hypoxia in setting of new PNA and need
   for high levels of narcotics for pain control.
   .
   # Atrial Fibrillation: Pt  w/ a-fib w/ RVR to the 150s-160s on [**8-9**],
   now resolved after amio load. Was on amio, then transitioned to IV
   lopressor.  Dilt drip was stopped yesterday, transitioned to Metoprolol
   20 mg IV q6h.  HR stable overnight.
   --continue Metropolol IV
   --continue monitor on telemetry
   --will dc a-line today
   .
   # Severe back pain/agitation: He has weakness of both lower extremities
   at baseline but no cord compressions or incontinence on recent
   imaging.  Fentanyl patch was increased to 50mcg. Pt
s pain appears to
   be well controled as patient was not aggitated overnight.
   -- Currently on HYDROmorphone (Dilaudid) 2 mg IV Q3H:PRN breakthrough
   pain
   -- cont fentanyl patch
   -- Cont zyprexa 5mg [**Hospital1 **]
   .
   #Respiratory distress / hypoxia:  PO2 on room air was 40 on [**8-8**] and
   patient reportedly desaturated to high 70s on room air and then again
   to high 70s/low 80s on 3L NC. STAT CXR done and now revealing new RUL
   infiltrative process alongside fevers to the 102 range.  Current WBC-
   7.0.  Etiology includes HAPNA vs. aspiration event with reactive CXR
   changes and bronchospasm with possible plugging. Patient's PMH notable
   for immunocompromised state and he is at high risk for organisms such
   as Step PNA given his multiple myeloma.  Pt currently on 4-5L NC, sats
   96-99% and has been afebrile since the day he was transferred to the
   [**Hospital Unit Name 1**].
   -- cont Vanco dosed according to HD protocol
   --will continue broad ABx coverage (all started [**8-8**]) with Vancomycin ,
   Cefipime & Flagyl for anearobic coverage, will stop after 8 days total
   --will f/u cultures
   .
   # Multiple myeloma: As above, he is status post 11 cycles
   velcade/dexamethasone, he got recent first dose Cytoxan on [**2130-7-3**] for
   disease progression on velcade, also treated with Rituxan in past. Dr.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 363**] is primary oncologist.
   -- will f/u Ig G
   --PPX held as pt cannot protect his airway.
   -- f/u BMT recs
   .
   # End-stage Renal Disease: Mr. [**Known lastname 67**] has ESRD secondary to his
   multiple myeloma. Last HD session was [**8-8**]. He will continue his usual
   Tues/Thurs/Sat schedule.
   -- f/u BMT recs regarding Ca level (whether to give bisphosphonate)
   --HD today
   --Epo at HD, PO meds being held as patient cannot protect airway
   --f/up renal consult recs
   -- renally dose medications
   -- closely monitor electrolyte shifts , replete as needed
   .
   #Hypotension: Pt
s BP has been stable.  Hct stable at 26.7 today.
   --f/u CBC
   --will cont to monitor BP.
   .
   FEN: gentle D5 1/2NS boluses given pt is anuric / replete lytes
   ICU Care
   Nutrition: D5
 saline,
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2130-8-8**] 09:24 AM
   20 Gauge - [**2130-8-8**] 06:56 PM
   18 Gauge - [**2130-8-9**] 08:00 AM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2130-8-8**] 09:24 AM
   18 Gauge - [**2130-8-9**] 08:00 AM
   20 Gauge - [**2130-8-14**] 09:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: